US07893267B2
To a solution of 0.25 g (0.75 mmol) of 2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid in DMF (4 mL) was added 0.4 g (1.05 mmol) of HBTU and DIEA (1 mL). The mixture was stirred for 5 min and then 0.18 g (0.7 μmmol) of 2-amino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester was added. The resulting reaction mixture was heated at 80° C. for 2 h. After usual workup, the residue was purified by column chromatography to afford the 0.2 g (55%) of 2-({2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carbonyl}-amino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester. LCMS: 570 (M+1)+. 1H NMR (DMSO-d6, 400 MHz): δ 9.56 (s, 1H), 8.84 (s, 1H), 8.35 (m, 2H), 7.96 (m, 4H), 7.84 (d, 1H), 7.35 (t, 1H), 4.58 (bs, 2H), 3.70 (t, 2H), 2.73 (t, 2H), 1.44 (s, 9H) ppm.

reactant | 2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid | 0.75 mmol, 0.25 g | C1=NC(=CC2=CC=CC=C12)C(=O)NC=1NC2=C(N1)C=CC=C2C(=O)O | C18H12N4O3
reactant | HBTU | 1.05 mmol, 0.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 0.18 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)N | C11H17N3O2S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-({2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carbonyl}-amino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 0.2 g, 55% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)NC(=O)C2=CC=CC=1N=C(NC12)NC(=O)C=1N=CC2=CC=CC=C2C1 | C29H27N7O4S
